US05506256
B) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine
To (2S)-1-[t-butoxycarbonyl)-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine (14.03 g) was added 4N hydrochloric acid/1,4-dioxane (220 ml), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated to dryness, and the residue was dissolved in DMF (100 ml), followed by condensation reaction as in Example 1-C) w i t h known N-benzyloxycarbonyl-L-proline (10.70 g) to give 11.10 g of the title compound.

reactant | (2S)-1-[t-butoxycarbonyl)-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine | 14.03 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=C(C=C1)OC)O | C18H27NO5
reactant | N-benzyloxycarbonyl-L-proline | 10.70 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
solvent | hydrochloric acid 1,4-dioxane | 4N, 220 ml | Cl.O1CCOCC1
product | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine | 11.10 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=C(C=C2)OC)O)CCC1 | C26H32N2O6
